US04477445
A solution of 7.8 g of p-bromophenol in 15 ml of tetrahydrofuran and then 5.75 ml of trimethylsilyl chloride were added to 50 ml of a solution of 0.9M of isopropyl magnesium chloride per liter of tetrahydrofuran and the resulting solution was poured over 1.2 g of magnesium turnings. A little 1,2-dibromoethane and then 2 ml of hexamethylphosphortriamide were added to the mixture which was refluxed for 21/2 hours to obtain a solution of 4-trimethylsilyloxy-phenyl magnesium bromide.

reactant | p-bromophenol | 7.8 g | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | trimethylsilyl chloride | 5.75 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | isopropyl magnesium chloride | 0.9M | C(C)(C)[Mg]Cl
reactant | magnesium | 1.2 g | [Mg] | Mg
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-trimethylsilyloxy-phenyl magnesium bromide | C[Si](OC1=CC=C(C=C1)[Mg]Br)(C)C | InChI=1S/C9H13OSi.BrH.Mg/c1-11(2,3)10-9-7-5-4-6-8-9;;/h5-8H,1-3H3;1H;/q;;+1/p-1
